US05340568
Silver dibenzyl phosphate:
Dibenzyl phosphate (10 mmole, 2.78 g) is dissolved in a mixture of acetonitrile (20 ml) and water (10 ml). Silver carbonate (10 mmole, 2.76 g) is added, and the mixture is stirred at room temperature in the dark (wrapped in aluminum foil) for 2 hours. Excess of silver carbonate is removed by filtration. The solution is evaporated to dryness, and dried over P2O5 in the dark to constant weight (2 days). Yield of silver dibenzoyl phosphate is 3.61 g.

reactant | Dibenzyl phosphate | 10 mmole, 2.78 g | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | Silver carbonate | 10 mmole, 2.76 g | C([O-])([O-])=O.[Ag+2]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
solvent | aluminum | [Al] | Al
product | Silver dibenzyl phosphate | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-].[Ag+] | InChI=1S/C14H15O4P.Ag/c15-19(16,17-11-13-7-3-1-4-8-13)18-12-14-9-5-2-6-10-14;/h1-10H,11-12H2,(H,15,16);/q;+1/p-1
